US09328067B2
({[4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)phenyl]carbonyl}amino)acetic acid
A mixture of tert-butyl({[4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino) phenyl]sulfanyl}methyl)phenyl]carbonyl}amino)acetate (90 mg, 0.14 mmol) in formic acid (2 ml) was stirred at room temperature overnight. Formic acid was removed under vacuum and the desired product (72 mg, 88%) was re-crystallized from 10% MeOH in CH2Cl2.

reactant | tert-butyl({[4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino) phenyl]sulfanyl}methyl)phenyl]carbonyl}amino)acetate | 0.14 mmol, 90 mg | C(C)(C)(C)OC(CNC(=O)C1=CC=C(C=C1)CSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C27H25Cl2F3N2O5S2
solvent | formic acid | 2 ml | C(=O)O | CH2O2
product | ({[4-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)phenyl]carbonyl}amino)acetic acid | ClC1=CC(=C(C=C1)SCC1=CC=C(C=C1)C(=O)NCC(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C23H17Cl2F3N2O5S2
